US07576215B2
3-[3-(2,6-DICHLOROPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL
The title compound was prepared from [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone and (2,6-dichloro-phenyl)-acetaldehyde following the procedure of Example 457: MS (ES) m/z 431.8; HRMS: calcd for C22H12Cl2F3NO+H+, 434.03208; found (ESI, [M+H]+), 434.033.

reactant | [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC(=CC=C1)O | C14H10F3NO2
reactant | (2,6-dichloro-phenyl)-acetaldehyde | ClC1=C(C(=CC=C1)Cl)CC=O | C8H6Cl2O
product | 3-[3-(2,6-DICHLOROPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL | ClC1=C(C(=CC=C1)Cl)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C22H12Cl2F3NO
